US07915286B2
Preparation of ethyl-4-cyclopropylamino-1-ethyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylate
To a mixture of ethyl 4-chloro-1-ethyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylate (950 mg, 0.0037 mole) in acetonitrile, cyclopropyl amine (0.525 ml, 0.0074 mole) was added. After stirring for about 2 hours at 110° C., acetonitrile was removed under reduced pressure. Water was added and the reaction mixture was extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous sodium sulfate and concentrated in vacuo to give light yellow solid compound. Yield: 1 g. m/z: (M++1) 275.0.

reactant | ethyl 4-chloro-1-ethyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylate | 0.0037 mole, 950 mg | ClC1=C2C(=NC=C1C(=O)OCC)N(N=C2)CC | C11H12ClN3O2
reactant | cyclopropyl amine | 0.0074 mole, 0.525 ml | C1(CC1)N | C3H7N
solvent | acetonitrile | C(C)#N | C2H3N
product | ethyl-4-cyclopropylamino-1-ethyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylate | C(C)OC(=O)C=1C(=C2C(=NC1)N(N=C2)CC)NC2CC2 | C14H18N4O2
